US05521173
Methyl 6-(2-thienyl)pyridine-3-carboxylate
A solution of 2.0 g of (methyl 6-hydroxypyridine-3-carboxylate, o-triflate) and 5.23 g of 2-(tributylstannyl)thiophene in 50 ml of dry toluene is stirred under nitrogen at reflux for 16 hours in the presence of tetrakis(triphenylphosphine)palladium(O). The reaction mixture is diluted with 50 ml of chloroform and filtered through a pad of diatomaceous earth. The filtrate is evaporated in vacuo to a residue which is extracted and decanted (2×100 ml) with 1:1 ether:petroleum ether. The combined extracts are evaporated in vacuo to give 1.6 g of the desired product as a residue.

reactant | methyl 6-hydroxypyridine-3-carboxylate | OC1=CC=C(C=N1)C(=O)OC | C7H7NO3
reactant | 2-(tributylstannyl)thiophene | 5.23 g | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrakis(triphenylphosphine)palladium(O) | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | Methyl 6-(2-thienyl)pyridine-3-carboxylate | 1.6 g | S1C(=CC=C1)C1=CC=C(C=N1)C(=O)OC | C11H9NO2S
